US07795262B2
XIV. 2-{2-[2-(4-Cyclobutylpiperazin-1-Yl)-2-Oxoethyl]-1,2,3,4-Tetrahydroiso-Quinolin-6-Yl}Pyridazin-3(2H)-One (Scheme 8)
To a sealed tube charged with 6-bromo-2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-1,2,3,4-tetrahydroisoquinoline (128 mg, 0.326 mmol), CuCl (3.2 mg, 0.0163 mmol, 0.05 eq.), pyridazin-3(2H)-one (47 mg, 0.489 mmol, 1.5 eq.), 8-hydroxyquinoline (9.5 mg, 0.0326 mmol, 0.1 eq.) and K2CO3 (90 mg, 0.652 mmol, 2.0 eq.) is added anhydrous DMF (3 ml). The mixture is degassed with nitrogen for 5 min. The tube is sealed and heated at 140° C. overnight. The mixture is cooled to rt and filtered through Celite. The Celite bed is washed with EtOAc, the combined organics are concentrated, and 5N HCl (30 mL) is added. The mixture is extracted with EtOAc (2×30 mL). The aqueous layer is basified with 10N NaOH, and extracted with DCM (3×40 mL), and the combined organics are dried and concentrated. The crude reaction mixture is purified by preparatory LC/MS to yield the title compound. 1H NMR (300 MHz, CDCl3) δ 7.87 (1H, dd), 7.32 (2H, m), 7.24 (1H, d), 7.12 (1H, d), 7.04 (1H, d), 3.72 (2H, s), 3.67-3.63 (4H, m), 3.36 (2H, s), 2.94 (2H, t), 2.81 (2H, t), 2.69 (1H, m), 2.27 (4H, m), 1.66-2.08 (6H); MS (+VE) m/z 408.14 (M++1).

reactant | 6-bromo-2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-1,2,3,4-tetrahydroisoquinoline | 0.326 mmol, 128 mg | BrC=1C=C2CCN(CC2=CC1)CC(=O)N1CCN(CC1)C1CCC1 | C19H26BrN3O
reactant | pyridazin-3(2H)-one | 0.489 mmol, 47 mg, 1.5 eq. | N=1NC(C=CC1)=O | C4H4N2O
reactant | 8-hydroxyquinoline | 0.0326 mmol, 9.5 mg, 0.1 eq. | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | K2CO3 | 0.652 mmol, 90 mg, 2.0 eq. | C(=O)([O-])[O-].[K+].[K+]
catalyst | CuCl | 0.0163 mmol, 3.2 mg, 0.05 eq. | Cl[Cu]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-{2-[2-(4-Cyclobutylpiperazin-1-Yl)-2-Oxoethyl]-1,2,3,4-Tetrahydroiso-Quinolin-6-Yl}Pyridazin-3(2H)-One | C1(CCC1)N1CCN(CC1)C(CN1CC2=CC=C(C=C2CC1)N1N=CC=CC1=O)=O | C23H29N5O2
